US05175303
Turning now to preferred conditions for the wet route, the aqueous solution of 7-salt oxide-9a-methoxymitosane (7-Na+O- -9a-methoxymitosane when aqueous sodium hydroxide is the hydroxide solution reacted with mitomycin C) is reacted directly with acid. While aqueous acid solutions or strong acid cation exchange resin in the hydrogen form can be used as the acidifying agent, in this case, unlike in the dry route, aqueous acid solution is preferred over cation exchange resin since use of cation exchange resin requires a resin separation step whereas the water introduced with aqueous acid does not need to be removed for reaction of diazodiphenylmethane with 7-hydroxy-9a-methoxymitosane. The reaction is readily carried out, for example, by combining diphenyldiazomethane solution with the 7-salt oxide-9a-methoxymitosane solution, adjusting the pH into the desired range of about 4 to 7 with acid solution, preferably 5-15% phosphoric acid, maintaining the pH in said desired range by the periodic addition of acid solution while maintaining the temperature in the range of 0° C. to 30° C. and adding additional diphenyldiazomethane solution if needed. As previously indicated methanol is preferably used in combination with methylene chloride reaction solvent. The methanol aids in extracting formed 7-hydroxy-9a-methoxymitosane from aqueous phase for reaction in the organic phase with diazodiphenylmethane.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydroxide | [OH-]
reactant | mitomycin C | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)N | C15H18N4O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 7-hydroxy-9a-methoxymitosane | CC1=C(C2=C([C@H]([C@@]3(N2C[C@H]4[C@@H]3N4)OC)COC(=O)N)C(=O)C1=O)O | C15H17N3O6
